US04868177
1-(1-Pyrrolidinyl)-1,2,3,4-tetrahydro-9-acridinamine
9-Amino-1,2,3,4-tetrahydroacridin-1-ol (5.36 g) was refluxed overnight in 250 ml of toluene that contained pyrrolidine (7.10 g) and p-toluenesulfonic acid monohydrate (9.5 g). At the end of this time the reaction mixture was washed with an aqueous K2CO3 solution and then the organic phase was concentrated. The residue obtained in this manner was purified by flash chromatography (5% Et3N, toluene) to give, after recrystallization from benzene/pentane, 2.91 g, m.p. 201°-203°.

reactant | 9-Amino-1,2,3,4-tetrahydroacridin-1-ol | 5.36 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)O | C13H14N2O
reactant | pyrrolidine | 7.10 g | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid monohydrate | 9.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(1-Pyrrolidinyl)-1,2,3,4-tetrahydro-9-acridinamine | N1(CCCC1)C1CCCC2=NC3=CC=CC=C3C(=C12)N | C17H21N3
